US07365065B2
Glycine methyl ester hydrochloride (2.2 g, 18 mmol), diisopropylethylamine (2.9 g, 29 mmol), 18-crown-6 (370 mg, 1.4 mmol) and potassium fluoride (1.6 g, 28 mmol) were added to a solution of 1-fluoro-2-nitrobenzene (2 g, 14 mmol) in acetonitrile (150 ml). The mixture was heated at 80° C. for 48 h and cooled. 0.3N potassium hydrogen sulphate and ethyl acetate were added and the mixture separated. The organic phase was washed with water and brine, filtered through phase separation paper and reduced. Chromatography (15% EtOAc/85% 6080 petroleum ether) afforded N-(2-nitrophenyl)glycine methyl ester as a yellow solid (2.5 g, 85%).

reactant | Glycine methyl ester hydrochloride | 18 mmol, 2.2 g | Cl.COC(CN)=O
reactant | diisopropylethylamine | 29 mmol, 2.9 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 18-crown-6 | 1.4 mmol, 370 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium fluoride | 28 mmol, 1.6 g | [F-].[K+]
reactant | 1-fluoro-2-nitrobenzene | 14 mmol, 2 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium hydrogen sulphate | 0.3N | S(=O)(=O)(O)[O-].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-nitrophenyl)glycine methyl ester | 2.5 g, 85% | COC(CNC1=C(C=CC=C1)[N+](=O)[O-])=O | C9H10N2O4
